### PR TITLE
[Merged by Bors] - feat: a finite-dimensional Lie algebra with a irreducible faithful finite-dimensional trace-free representation is semisimple

### PR DESCRIPTION
**Pull request by ocfnash**
Over a field of characteristic zero.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Semisimple/Lemmas.lean [hunk 1]
```diff
@@ -0,0 +1,68 @@
...
+variable (k L M : Type*) [Field k] [CharZero k]
+  [LieRing L] [LieAlgebra k L] [Module.Finite k L]
+  [AddCommGroup M] [Module k M] [LieRingModule L M] [LieModule k L M] [Module.Finite k M]
+  [IsIrreducible k L M] [IsFaithful k L M] [IsTriangularizable k L M]
+
+lemma hasCentralRadical_and_of_isIrreducible_of_isFaithful :
+    HasCentralRadical k L ∧ (∀ x, x ∈ center k L ↔ toEnd k L M x ∈ k ∙ LinearMap.id) := by
+  have _i := nontrivial_of_isIrreducible k L M
+  obtain ⟨χ, hχ⟩ : ∃ χ : Module.Dual k (radical k L), Nontrivial (weightSpace M χ) :=
+    exists_nontrivial_weightSpace_of_isSolvable k (radical k L) M
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Semisimple/Lemmas.lean:35]: I expect that we could get the lemmas in this file to work over any principal ideal domain (of characteristic zero) instead of a field. The plan I see would be to define the nilradical of a Lie algebra (currently missing) and use it with `LieModule.exists_nontrivial_weightSpace_of_isNilpotent` instead of using the solvable radical with Lie's theorem as we are doing here. The conclusion of this lemma would then make a statement that the nilradical vanishes. We would prove elsewhere that vanishing nilradical is equivalent to `HasCentralRadical`.

File: Mathlib/Algebra/Lie/OfAssociative.lean [hunk 2]
```diff
@@ -205,6 +205,40 @@ theorem LieSubalgebra.toEnd_mk (K : LieSubalgebra R L) {x : L} (hx : x ∈ K) :
...
+lemma toEnd_eq_iff [IsFaithful R L M] {x y : L} :
+    toEnd R L M x = toEnd R L M y ↔ x = y :=
+  IsFaithful.injective_toEnd.eq_iff
+
+@[simp]
+lemma toEnd_eq_zero_iff [IsFaithful R L M] {x : L} :
+    toEnd R L M x = 0 ↔ x = 0 := by
+  simp [- LieHom.map_zero, ← (toEnd R L M).map_zero]
+
+lemma isFaithful_iff' : IsFaithful R L M ↔ ∀ x : L, (∀ m : M, ⁅x, m⁆ = 0) → x = 0 := by
```
Comment (jcommelin) [inline Mathlib/Algebra/Lie/OfAssociative.lean:229]: Could you please also provide an ext-lemma version. (It can't be tagged `@[ext]`, because it can't determine `M`.)
Basically `toEnd_eq_iff`, but spelled out with Lie brackets, and only the `.mpr` direction.
I guess it could be called `ext_of_isFaithful`.

File: Mathlib/Algebra/Lie/Semisimple/Basic.lean [hunk 3]
```diff
@@ -304,18 +304,13 @@ instance (priority := 100) IsSimple.instIsSemisimple [IsSimple R L] :
...
 
 theorem abelian_radical_of_hasTrivialRadical [HasTrivialRadical R L] :
     IsLieAbelian (radical R L) := by
   rw [HasTrivialRadical.radical_eq_bot]; exact LieIdeal.isLieAbelian_of_trivial ..
 
-/-- The two properties shown to be equivalent here are possible definitions for a Lie algebra
-to be reductive.
-
-Note that there is absolutely [no agreement](https://mathoverflow.net/questions/284713/) on what
-the label 'reductive' should mean when the coefficients are not a field of characteristic zero. -/
```
Comment (jcommelin) [inline Mathlib/Algebra/Lie/Semisimple/Basic.lean:318]: Why are you removing this comment now?
Aha, I see, you moved it to the docstring of `HasCentralRadical`.

But maybe this docstring can point there?
```suggestion
/-- The two properties shown to be equivalent here are possible definitions for a Lie algebra
to be reductive.
See also `LieAlgebra.HasCentralRadical`. -/
```

File: Mathlib/Algebra/Lie/Semisimple/Lemmas.lean (hunk 1 above)
Comment (jcommelin) [reply Mathlib/Algebra/Lie/Semisimple/Lemmas.lean:35]: I think it is fine to leave it as future work. But please record your observation as a comment in the file.

File: Mathlib/Algebra/Lie/OfAssociative.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/OfAssociative.lean:229]: I have added `ext_of_isFaithful`.

File: Mathlib/Algebra/Lie/Semisimple/Basic.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Semisimple/Basic.lean:318]: Sadly that comment was wrong: it only assumes that the radical is abelian which is weaker than the radical being central!

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
